US04160099
1-[α-BENZOYLOXYBENZYL]-3-METHYLIMIDAZOLIUM CHLORIDE (9)
To an ether solution of benzoyl chloride 2.81 g (0.02 mol) there was added dropwise 1.67 g (0.02 mol) 1-methylimidazole with stirring. The resulting mixture was evaporated in vacuo and the residue was allowed to react with 2.12 g (0.02 mol) benzaldehyde at 70° overnite. After cooling, the reaction mixture was triturated with ether and the solid separated by filtration. Recrystallization from dichloromethane:dioxane gave 4.2 g (0.012 mol), 65%, 9, mp 199°-201°; ir (KBr) 1740 cm-1 ; pmr (CDCl3) δ 4.17 (s, 3H), 8.18-7.25 (m, 12H), 8.50 (s, 1H) and 11.1 (bs, 1H) ppm.

reactant | benzoyl chloride | 0.02 mol, 2.81 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-methylimidazole | 0.02 mol, 1.67 g | CN1C=NC=C1 | C4H6N2
reactant | benzaldehyde | 0.02 mol, 2.12 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | KBr | [K+].[Br-]
solvent | ether | CCOCC | C4H10O
product | 1-[α-BENZOYLOXYBENZYL]-3-METHYLIMIDAZOLIUM CHLORIDE | [Cl-].C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)[N+]1=CN(C=C1)C | InChI=1S/C18H17N2O2.ClH/c1-19-12-13-20(14-19)17(15-8-4-2-5-9-15)22-18(21)16-10-6-3-7-11-16;/h2-14,17H,1H3;1H/q+1;/p-1
